US06545008B1
Step 2: 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-fluoro-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
The same procedures as in Step 2 of Example 3 above were repeated using 5,6-dimethyl-2-chloro-4-(1-methyl-6-fluoro-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.1 g, 0.33 mmol), dimethylformamide (5 ml), and 4-fluoroaniline (0.08 ml, 0.84 mmol) to afford 84 mg (61%) of the titled compound.

reactant | 5,6-dimethyl-2-chloro-4-(1-methyl-6-fluoro-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.33 mmol, 0.1 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=C(C=C2CC1)F)C | C16H17ClFN3
reactant | 4-fluoroaniline | 0.84 mmol, 0.08 ml | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-fluoro-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 84 mg, 61% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)F)C | InChI=1S/C22H22F2N4.ClH/c1-13-14(2)25-22(26-19-7-4-17(23)5-8-19)27-21(13)28-11-10-16-12-18(24)6-9-20(16)15(28)3;/h4-9,12,15H,10-11H2,1-3H3,(H,25,26,27);1H
